US06495546B1
Under nitrogen, to a suspension of potassium carbonate (76 mg) in a mixture of acetonitrile (5 ml) and N,N-dimethylformamide (2 ml) was added N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (150 mg) at room temperature. After being stirred at the same temperature for 30 minutes, to this one was an excessive amount of bromofluoromethane, and the mixture was stirred for 12 hours. The resulting solution was poured into saturated aqueous sodium hydrogencarbonate, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=10:1) to give N-(3-fluoromethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (130 mg).

reactant | potassium carbonate | 76 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 150 mg | OC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C31H47NO5Si
reactant | bromofluoromethane | BrCF | CH2BrF
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(3-fluoromethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 130 mg | FCOC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C32H48FNO5Si
